US06037354
Step D: 2-(4-Oxocyclohexyl)pyridine N-oxide
2-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridine N-oxide (3 g, 12.75 mmol) was combined with glacial acetic acid (20 mL), concentrated hydrochloric acid (10 mL), and water (10 mL). The resulting mixture was heated to 45° C. for 24 hours. The reaction was cooled to 0° C. and the pH was adjusted to 6 with 20% sodium hydroxide solution. The phases were separated and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with water and brine, then dried (sodium sulfate), and concentrated under reduced pressure to yield 1.8 g of the product as an oil.

reactant | 2-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridine N-oxide | 12.75 mmol, 3 g | O1CCOC12CCC(CC2)C2=[N+](C=CC=C2)[O-] | C13H17NO3
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-(4-Oxocyclohexyl)pyridine N-oxide | 1.8 g | O=C1CCC(CC1)C1=[N+](C=CC=C1)[O-] | C11H13NO2
